US09085570B2
A solution of 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid (420 mg, 0.99 mmol, 1.00 equiv), EDCI (230 mg, 1.20 mmol, 1.22 equiv), HOBt (170 mg, 1.26 mmol, 1.27 equiv), triethylamine (300 mg, 2.97 mmol, 3.01 equiv) and pyridin-3-ylmethanamine (140 mg, 1.30 mmol, 1.31 equiv) in N,N-dimethylformamide (20 mL) was stirred overnight at room temperature. The product was precipitated by the addition 60 mL of water/ice. The solid was collected by filtration, washed with 2×20 mL of water and dried in a vacuum oven to give 0.20 g (39%) of 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide as a white solid. LC-MS: (ES, m/z): 557 [M+CH3CN+H]+, 516 [M+H]+, 102. 1HNMR (400 MHz, CDCl3, ppm) δ 9.22 (s, 1H), 8.57 (s, 1H), 8.47 (s, 1H), 8.06-7.89 (m, 6H), 7.82 (d, J=8.0Hz, 1H), 7.73 (d, J=7.6Hz, 1H), 7.38-7.36 (m, 1H), 4.84 (s, 2H), 4.51 (d, J=5.2Hz, 2H), 2.24 (s, 3H).

reactant | 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid | 0.99 mmol, 420 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C19H14F3NO5S
reactant | EDCI | 1.20 mmol, 230 mg, 1.22 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.26 mmol, 170 mg, 1.27 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.97 mmol, 300 mg, 3.01 equiv | C(C)N(CC)CC | C6H15N
reactant | pyridin-3-ylmethanamine | 1.30 mmol, 140 mg, 1.31 equiv | N1=CC(=CC=C1)CN | C6H8N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide | 0.20 g, 39% | CC1=C(N=C(O1)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1)CS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C25H20F3N3O4S
